US04298739
17 Grams of p-methylaminophenol, 20 ml of triethylamine and 9 g of 5% rhodium alumina are added to 200 ml of methanol and the mixture is shaken at the temperature of 60° to 70° C. and under hydrogen pressure of 3 to 4 atm. for 16 hours to effect hydrogenation. After the reaction, the catalyst is filtered off and the mother liquor is concentrated and evaporated to dryness, and the residue is added with 500 ml of chloroform and 200 ml of 5% aqueous NaOH solution. After separating the liquid, the chloroform layer is washed with water and concentrated, and the residue is further distilled under reduced pressure. This treatment gives 11 g of 4-methylaminocyclohexanol with boiling point of 123°-129° C. (at 22 mmHg).

reactant | p-methylaminophenol | CNC1=CC=C(C=C1)O | C7H9NO
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 ml | CO | CH4O
product | 4-methylaminocyclohexanol | 11 g | CNC1CCC(CC1)O | C7H15NO
